US07192982B2
(2S)-3-(4-Hydroxy-phenyl)-2-propoxy-propionic acid ethyl ester
A mixture of (S)-2-allyloxy-3-(4-benzyloxy-phenyl)-propionic acid ethyl ester (1.33 mmol, 450 mg) and 10% Pd/C (45 mg) in EtOH (15 mL) were stirred under hydrogen atmosphere (1 atm) for 18 hours. The mixture was filtered through celite and concentrated under vacuum to afford the title product. 1H-NMR (200.15 MHz, CDCl3): δ 7.10 (d, 4H, J=8.6), 6.73 (d, 2H, J=8.4), 5.90 (brs, 1H), 4.16 (q, 2H, J=7.3), 3.94 (t, 1H, J=6.7), 3.53–3.45 (m, 1H), 3.27–3.16 (m, 1H), 2.93 (d, 2H, J=6.5), 1.54 (m, 2H), 1.22 (t, 3H, J=7.3), 0.84 (t, 3H, J=7.5).

reactant | (S)-2-allyloxy-3-(4-benzyloxy-phenyl)-propionic acid ethyl ester | 1.33 mmol, 450 mg | C(C)OC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)OCC=C)=O | C21H24O4
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | (2S)-3-(4-Hydroxy-phenyl)-2-propoxy-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCCC)=O | C14H20O4
